US08378095B2
To a solution of 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.020 g, 0.053 mmol) in DMSO (1 ml) were added N-methylpiperazine (11 μl, 0.106 mmol) and triethylamine (12 μl, 0.106 mmol). The reaction was heated to 150° C. via microwave irradiation and held at that temperature for 25 minutes. Purification was performed by preparative HPLC to afford 2-(2,6-difluorophenyl)-5-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)oxazole-4-carboxamide (0.0024 g, 0.0054 mmol, 10%) as an off white powder. 1H NMR (CD3OD) δ 2.57 (3H, s), 2.76-2.96 (10H, m), 4.24 (2H, t), 7.06 (2H, m), 7.22 (2H, m), 7.64 (1H, m), 8.26 (2H, m). LCMS (2) 2.25 min; m/z (ES+) 443.

reactant | 5-(4-(2-chloroethoxy)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.053 mmol, 0.020 g | ClCCOC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C18H13ClF2N2O3
reactant | N-methylpiperazine | 0.106 mmol, 11 μl | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.106 mmol, 12 μl | C(C)N(CC)CC | C6H15N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 2-(2,6-difluorophenyl)-5-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)oxazole-4-carboxamide | 0.0054 mmol, 0.0024 g, 10% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OCCN1CCN(CC1)C | C23H24F2N4O3
